US04789680
10 g (63 millimoles) of 1-(2,6-difluorophenyl)ethanol are dissolved in 150 ml of hydrazoic acid (1.2N in toluene). To this solution are added 22.8 g (200 millimoles) of trifluoroacetic acid and the reaction mixture is allowed to stand for 24 hours at room temperature. After dilution with 300 ml of hexane, the reaction solution is washed first with water, then with sodium bicarbonate solution until free of acid and dried over sodium sulfate. The solvent is subsequently removed at 40°-50° C. under reduced pressure. The residue is dissolved in 100 ml of hexane and the solution is filtered through 50 g of silica gel and concentrated by evaporation once more, affording 1-(2,6-difluorophenyl)ethyl azide as a colourless oil.

reactant | 1-(2,6-difluorophenyl)ethanol | 63 millimoles, 10 g | FC1=C(C(=CC=C1)F)C(C)O | C8H8F2O
reactant | trifluoroacetic acid | 200 millimoles, 22.8 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrazoic acid | 1.2N, 150 ml | N=[N+]=[N-] | HN3
product | 1-(2,6-difluorophenyl)ethyl azide | FC1=C(C(=CC=C1)F)C(C)N=[N+]=[N-] | C8H7F2N3
